US04007176
3-Acetoxymethyl-7-amino-2(t-butoxycarbonyl)-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene (11.2 g.) and dicyclohexylcarbodiimide (7.8 g.) are added to a solution of (5,6-dihydro-1,4-dithiin-2-yl)acetic acid (6 g.) in dimethylformamide (50 cc.). The reagents are left in contact for 5 hours, with stirring, at a temperature of about 20° C. and then the solid is filtered off. The filtrate is taken up in ethyl acetate (300 cc.) and is washed with an aqueous solution of sodium bicarbonate, N hydrochloric acid and then with water. After drying over sodium sulphate, it is treated with decolourizing charcoal and concentrated to dryness under reduced pressure (20 mm.Hg). A residue (20 g.) is obtained and is chromatographed on silica (330 g.). Elution is effected using a mixture (10 liters) of ethyl acetate and cyclohexane (1-3 by volume), and the eluates are concentrated to dryness under reduced pressure (20 mm.Hg). 3-Acetoxymethyl-2-(t-butoxycarbonyl)-7-[(5,6-dihydro-1,4-dithiin-2 -yl)acetamido]-8-oxo-5-thia-1 -aza-bicyclo-[4,2,0]oct-2-ene (10.3 g.), melting at 80° C., is thus obtained.

reactant | 3-Acetoxymethyl-7-amino-2(t-butoxycarbonyl)-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene | 11.2 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)N)=O)C(=O)OC(C)(C)C | C14H20N2O5S
reactant | dicyclohexylcarbodiimide | 7.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (5,6-dihydro-1,4-dithiin-2-yl)acetic acid | 6 g | S1C(=CSCC1)CC(=O)O | C6H8O2S2
solvent | dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
product | 3-Acetoxymethyl-2-(t-butoxycarbonyl)-7-[(5,6-dihydro-1,4-dithiin-2 -yl)acetamido]-8-oxo-5-thia-1 -aza-bicyclo-[4,2,0]oct-2-ene | 10.3 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CC=1SCCSC1)=O)=O)C(=O)OC(C)(C)C | C20H26N2O6S3
